US03966783
Ferrocenoylbutyrylchloride (obtained from above and assumed to be 40 m mole) was dissolved in mesitylene (150 ml) and aluminium chloride (5.34g; 40 m mole added). The mixture was stirred at 80° for 40 minutes. The tan-like material which was insoluble in mesitylene was separated, taken up in benzene, and washed with water, 2N HCl, saturated sodium bicarbonate and water, and dried (sodium sulphate) to yield a dark oil which was recrystallised from petroleum ether (bp 40°-60°) to yield 2.05g (12.2%) of pure mesitoylbutyryl ferrocene as a brown soild mp 75°-6°.

reactant | Ferrocenoylbutyrylchloride | [C-]1(C=CC=C1)C(=O)CCCC(=O)Cl.[CH-]1C=CC=C1.[Fe+2]
solvent | mesitylene | 150 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
solvent | aluminium chloride | 5.34g | [Cl-].[Al+3].[Cl-].[Cl-]
product | mesitoylbutyryl ferrocene | 2.05g, 12.2% | C1(=C(C(=CC(=C1)C)C)C(=O)CCCC(=O)[C-]1C=CC=C1)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C19H21O2.C5H5.Fe/c1-13-11-14(2)19(15(3)12-13)18(21)10-6-9-17(20)16-7-4-5-8-16;1-2-4-5-3-1;/h4-5,7-8,11-12H,6,9-10H2,1-3H3;1-5H;/q2*-1;+2
